US03947429
In a flask, 3,5-lupetidine (22.9 parts), triethylamine (20.4 parts) and ether (200 parts) are charged, and phenylsulfenyl chloride (27.7 parts) is dropwise added thereto. The resultant mixture is stirred at 30°C for 6 hours. The reaction mixture is filtered to separate the precipitate and the filtrate is distilled to give N-phenylthio-3,5-lupetidine (36 parts by weight). B.P.; 134°C/4 mmHg. nD25 1.5511.

reactant | 3,5-lupetidine | N1CC(CC(C1)C)C | C7H15N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | phenylsulfenyl chloride | C1(=CC=CC=C1)SCl | C6H5ClS
solvent | ether | CCOCC | C4H10O
product | N-phenylthio-3,5-lupetidine | C1(=CC=CC=C1)SN1CC(CC(C1)C)C | C13H19NS
